US06353006B1
(1R)-1-Cyclohexyl-1-ethylamine was reacted with 1,2-epoxy-2-methylpropane according to Method B5b to give N-((1R)-1-cyclohexyl-1-ethyl)-N-(2,2-dimethyl-2-hydroxyethyl)amine. N-((1R)-1-Cyclohexyl-1-ethyl)-N-(2,2dimethyl-2-hydroxyethyl)amine was reacted with SOCl2 followed by 2,3-dichlorophenyl isothiocyanate according to Method C2f to afford 2-(2,3-dichlorophenylimino)-3-((1R)-1-cyclohexyl-1-ethyl)-5,5-dimethyl-1,3-thiazolidine HCl salt.

reactant | (1R)-1-Cyclohexyl-1-ethylamine | C1(CCCCC1)[C@@H](C)N | C8H17N
reactant | 1,2-epoxy-2-methylpropane | O1CC1(C)C | C4H8O
product | N-((1R)-1-cyclohexyl-1-ethyl)-N-(2,2-dimethyl-2-hydroxyethyl)amine | C1(CCCCC1)[C@@H](C)NCC(O)(C)C | C12H25NO
